US05478820
Allyl 3-methylthio-5-nitrobenzoate (1.12 g, 4.4 mM) was dissolved in methanol (30 ml), and cooled to 2°. A solution of "potassium peroxymonopersulfate" (2KHSO5.KHSO4.K2SO4, 8.13 g, 13.2 mM) in water (25 ml) was added slowly, and stirring continued for 4 hours. The mixture was diluted with water (60 ml) and extracted with ethyl acetate (3×100 ml). The combined organic extracts were washed with water, brine, and dried over Na2SO4. Crude product was purified by chromatography on silica using a gradient of petrol/ethyl acetate (3:1 to 2:1) to give allyl 3-methylsulphonyl-5-nitrobenzoate (0.74 g, 59%). Nmr (DMSO-d6): δ3.44 (s, 3H); 4.94 (dt, 2H); 5.32-5.53 (m, 2H); 6.01-6.25 (m, 1H); 8.78 (t, 1H); 8.89 (t, 1H); 8.91 (t, 1 H).

reactant | Allyl 3-methylthio-5-nitrobenzoate | 4.4 mM, 1.12 g | CSC=1C=C(C(=O)OCC=C)C=C(C1)[N+](=O)[O-] | C11H11NO4S
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | methanol | 30 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | allyl 3-methylsulphonyl-5-nitrobenzoate | 0.74 g, 59% | CS(=O)(=O)C=1C=C(C(=O)OCC=C)C=C(C1)[N+](=O)[O-] | C11H11NO6S
